US06291514B1
5-Methylthio-4-(phenylsulfonyl)thiophene-2-carboxamidine trifluoroacetate: The same procedure as in Example 257, step (b) was followed using 13.8 mg (0.044 mmol) of methyl 5-methylthio-4-(phenylsulfonyl)thiophene-2-carboxylate (as prepared in the step before), 20 mg of ammonium chloride (0.376 mmol), 0.176 ml of trimethylaluminum (2.0 M in toluene, 0.353 mmol) and 3 ml of anhydrous toluene and chromatographed as before by preparative reverse phase HPLC performed with a Rainin SD-1 Dynamax system and a 2-in. C18 reverse phase Dynamax 60A column using a gradient of 30% MeOH/0.1% TFA in water to 100% MeOH and a flow rate of 50 mL/min to yield 2.3 mg of 5-methylthio-4-(phenylsulfonyl)thiophene-2-carboxamidine. 1H-NMR (CD3OD, 400 MHz) δ 8.42 (s, 1H), 8.04 (m, 2H), 7.70 (m, 2H), 7.62 (m, 1H) and 2.70 (s, 3H). Mass spectrum (ESI, m/z): Calcd. C12H12N2O2S3, 313.0 (M+H), found 313.2.

reactant | 5-Methylthio-4-(phenylsulfonyl)thiophene-2-carboxamidine trifluoroacetate | FC(C(=O)O)(F)F.CSC1=C(C=C(S1)C(=N)N)S(=O)(=O)C1=CC=CC=C1
reactant | methyl 5-methylthio-4-(phenylsulfonyl)thiophene-2-carboxylate | 0.044 mmol, 13.8 mg | CSC1=C(C=C(S1)C(=O)OC)S(=O)(=O)C1=CC=CC=C1 | C13H12O4S3
reactant | ammonium chloride | 0.376 mmol, 20 mg | [Cl-].[NH4+]
reactant | trimethylaluminum | 0.353 mmol, 2.0 M, 0.176 ml | C[Al](C)C
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 5-methylthio-4-(phenylsulfonyl)thiophene-2-carboxamidine | 2.3 mg | CSC1=C(C=C(S1)C(=N)N)S(=O)(=O)C1=CC=CC=C1 | C12H12N2O2S3
